US09120749B2
tert-butyl 1-(5-(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate
Following general procedure D, tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate (46 mg, 0.091 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (37 mg, 0.137 mmol) to afford the desired product (32 mg, 60%) as an yellow solid: ESI MS m/z 619, [C33H35ClFN5O4+H]+

reactant | tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 0.091 mmol, 46 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC=1C=CC(=NC1)N1CC(CCC1)NC(OC(C)(C)C)=O | C27H32BrN5O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.137 mmol, 37 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | tert-butyl 1-(5-(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 32 mg, 60% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC=1C=CC(=NC1)N1CC(CCC1)NC(OC(C)(C)C)=O | C33H35ClFN5O4
